US05633270
30 cm3 of methanol are added slowly under an inert atmosphere into a round-bottomed flask containing 2.0 g of benzyl (4R) -3-{3- [2- (4-tert-butoxycarbonyl-2-cyclohexyl-3-thiazolidinyl)-2-oxoethyl]-ureido}phenyl-acetate (isomer A), 1.7 g of ammonium formate and 2.0 g of palladium on charcoal (10% Pd). The reaction medium is heated to reflux for 2 hours and then cooled to a temperature in the region of 25° C. The catalyst is separated by filtration and the filtrate is concentrated to dryness under reduced pressure at 40° C. The residue obtained is dissolved in 25 cm3 of 0.1N aqueous sodium hydroxide solution and washed with twice 10 cm3 of diethyl ether. The aqueous phase is brought to pH 2 by adding 1N aqueous sulphuric acid solution. The precipitated product is separated by filtration, washed with twice 10 cm3 of water and dried in the air. 1.0 g of (4R) -3-{3- [2- (4-tert-butoxycarbonyl-2-cyclohexyl-3-thiazolidinyl)-2-oxoethyl]ureido}phenylacetic acid (isomer A), melting point 115° C., is thereby obtained; [α]D25 =-32.9°±1.2° (C %=1.2; DMF).

reactant | methanol | 30 cm3 | CO | CH4O
reactant | benzyl (4R) -3-{3- [2- (4-tert-butoxycarbonyl-2-cyclohexyl-3-thiazolidinyl)-2-oxoethyl]-ureido}phenyl-acetate | 2.0 g | C(C)(C)(C)OC(=O)[C@H]1N(C(SC1)C1CCCCC1)C(CNC(NC=1C=C(C=CC1)CC(=O)OCC1=CC=CC=C1)=O)=O | C32H41N3O6S
reactant | ammonium formate | 1.7 g | C(=O)[O-].[NH4+]
catalyst | palladium on charcoal | 2.0 g | [Pd] | Pd
solvent | sodium hydroxide | 0.1N, 25 cm3 | [OH-].[Na+]
product | (4R) -3-{3- [2- (4-tert-butoxycarbonyl-2-cyclohexyl-3-thiazolidinyl)-2-oxoethyl]ureido}phenylacetic acid | 1.0 g | C(C)(C)(C)OC(=O)[C@H]1N(C(SC1)C1CCCCC1)C(CNC(NC=1C=C(C=CC1)CC(=O)O)=O)=O | C25H35N3O6S
